US07060827B2
The reaction of 4,6-dichloropyrimidine with excess 3-hydroxyaniline in MeOH at 80° C. for 24 h followed by dilution with water and acidification gave the crude product which was purified by silica gel column chromatography to obtain 6-chloro N4-(3-hydroxyphenyl)-4-pyrimidineamine. 1H NMR (CD3OD): δ 8.36 (d, 1H, J=1.2 Hz), 7.15 (t, 1H, J=8.4 Hz), 6.93 (dd, 1.2 and 8.1 Hz), 6.74 (d, 1H, J=1.2 Hz), 6.55 (dd, 1.8 and 8.1 Hz); LCMS (m/e): ret. time: 19.75 min.; purity: 99%; MS (m/e): 222 (MH+).

reactant | 4,6-dichloropyrimidine | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 3-hydroxyaniline | OC=1C=C(N)C=CC1 | C6H7NO
reactant | water | O | H2O
solvent | MeOH | CO | CH4O
product | 6-chloro N4-(3-hydroxyphenyl)-4-pyrimidineamine | ClC1=CC(=NC=N1)NC1=CC(=CC=C1)O | C10H8ClN3O
